US06573377B1
A 5.57 g portion of 2,6-dichloro-4-(4-methoxybenzyl)aminopyrimidine was suspended in 20 ml of tetrahydrofuran, mixed with 3.0 ml of hydrazine monohydrate and heated under reflux for 24 hours. After evaporation of the solvent under a reduced pressure, water was added to the residue and the resulting precipitate was collected by filtration to obtain 5.06 g of 4-chloro-2-hydrazino-6-(4-methoxybenzyl)aminopyrimidine as a white solid. This was suspended in 150 ml of ethanol and mixed with 3.37 g of ethoxymethyleneacetoacetic acid ethyl ester at room temperature, and the mixture was stirred for 1 hour and then heated under reflux for 15 hours. By concentrating the reaction solution to dryness under a reduced pressure, 7.22 g of the title compound was obtained as a white solid.

reactant | 2,6-dichloro-4-(4-methoxybenzyl)aminopyrimidine | ClC1=NC(=CC(=N1)NCC1=CC=C(C=C1)OC)Cl | C12H11Cl2N3O
reactant | hydrazine monohydrate | 3.0 ml | O.NN
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-hydrazino-6-(4-methoxybenzyl)aminopyrimidine | 5.06 g | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)OC)NN | C12H14ClN5O
